US07572820B2
A. 4-Bromo-3-chloro-2-nitroaniline
3-Chloro-2-nitro aniline (5.0 g, 28.97 mmol) and NBS (5.42 g, 30.42 mmol) were combined in THF (200 mL) and stirred at rt for 15 h. Concentration and purification (SiO2, EtOAc/hexanes) afforded the title compound (0.84 g): 1HNMR (400 MHz, CDCl3) δ 7.46 (d, J=8.9 Hz, 1H), 6.63 (d, J=8.9 Hz, 1H), 4.7 (s, 2H); MS (ESI) m/z 253 (M+1).

reactant | 3-Chloro-2-nitro aniline | 28.97 mmol, 5.0 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | NBS | 30.42 mmol, 5.42 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-Bromo-3-chloro-2-nitroaniline | 0.84 g | BrC1=C(C(=C(N)C=C1)[N+](=O)[O-])Cl | C6H4BrClN2O2
